* NGSPICE file created from TMRDFFQNX1.ext - technology: sky130A

.subckt nmos_bottom a_56_54# a_86_84# a_0_0# VSUBS
X0 a_86_84# a_56_54# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0597 pd=0.555 as=0.393 ps=2.99 w=3.01 l=0.15
.ends

.subckt nmos_top_trim1 a_86_92# a_56_62# a_0_0# VSUBS
X0 a_86_92# a_56_62# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0597 pd=0.555 as=0.395 ps=2.97 w=3.01 l=0.15
.ends

.subckt pmos2 a_88_n400# a_144_n461# a_174_n400# a_262_n400# w_52_n436#
X0 a_262_n400# a_144_n461# a_174_n400# w_52_n436# sky130_fd_pr__pfet_01v8 ad=0.54 pd=4.54 as=0.29 ps=2.29 w=2 l=0.15
X1 a_174_n400# a_144_n461# a_88_n400# w_52_n436# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.56 ps=4.56 w=2 l=0.15
.ends

.subckt nand2x1_pcell a_31_480# a_362_382# a_229_1059# pmos2_1/VSUBS a_168_375# w_87_786#
Xnmos_bottom_0 a_168_375# pmos2_1/VSUBS nmos_bottom_0/a_0_0# pmos2_1/VSUBS nmos_bottom
Xnmos_top_trim1_0 a_229_1059# a_362_382# nmos_bottom_0/a_0_0# pmos2_1/VSUBS nmos_top_trim1
Xpmos2_0 w_87_786# a_168_375# a_229_1059# w_87_786# w_87_786# pmos2
Xpmos2_1 w_87_786# a_362_382# a_229_1059# w_87_786# w_87_786# pmos2
.ends

.subckt nmos_side_left a_87_91# a_0_0# a_57_61# VSUBS
X0 a_87_91# a_57_61# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0545 pd=0.53 as=0.404 ps=3.02 w=3 l=0.15
.ends

.subckt nand3x1_pcell a_34_482# a_447_377# li_649_449# a_289_1059# a_147_377# w_87_786#
+ pmos2_2/VSUBS
Xnmos_bottom_0 a_147_377# pmos2_2/VSUBS nmos_bottom_0/a_0_0# pmos2_2/VSUBS nmos_bottom
Xnmos_top_trim1_0 a_289_1059# li_649_449# li_393_182# pmos2_2/VSUBS nmos_top_trim1
Xnmos_side_left_0 li_393_182# nmos_bottom_0/a_0_0# a_447_377# pmos2_2/VSUBS nmos_side_left
Xpmos2_0 w_87_786# a_147_377# a_289_1059# w_87_786# w_87_786# pmos2
Xpmos2_1 w_87_786# a_447_377# a_289_1059# w_87_786# w_87_786# pmos2
Xpmos2_2 w_87_786# li_649_449# a_289_1059# w_87_786# w_87_786# pmos2
.ends

.subckt dffx1_pcell nand2x1_pcell_4/a_168_375# nand2x1_pcell_0/a_362_382# nand2x1_pcell_3/a_362_382#
+ m1_427_871# nand3x1_pcell_0/w_87_786# nand2x1_pcell_3/a_229_1059# nand2x1_pcell_4/a_229_1059#
+ VSUBS nand3x1_pcell_0/a_34_482#
Xnand2x1_pcell_2 nand3x1_pcell_0/a_34_482# m1_427_871# m1_258_797# VSUBS m1_2165_649#
+ nand3x1_pcell_0/w_87_786# nand2x1_pcell
Xnand2x1_pcell_3 nand3x1_pcell_0/a_34_482# nand2x1_pcell_3/a_362_382# nand2x1_pcell_3/a_229_1059#
+ VSUBS m1_833_723# nand3x1_pcell_0/w_87_786# nand2x1_pcell
Xnand2x1_pcell_4 nand3x1_pcell_0/a_34_482# m1_258_797# nand2x1_pcell_4/a_229_1059#
+ VSUBS nand2x1_pcell_4/a_168_375# nand3x1_pcell_0/w_87_786# nand2x1_pcell
Xnand3x1_pcell_0 nand3x1_pcell_0/a_34_482# m1_427_871# m1_685_649# m1_833_723# m1_258_797#
+ nand3x1_pcell_0/w_87_786# VSUBS nand3x1_pcell
Xnand2x1_pcell_0 nand3x1_pcell_0/a_34_482# nand2x1_pcell_0/a_362_382# m1_685_649#
+ VSUBS m1_833_723# nand3x1_pcell_0/w_87_786# nand2x1_pcell
Xnand2x1_pcell_1 nand3x1_pcell_0/a_34_482# m1_258_797# m1_2165_649# VSUBS m1_685_649#
+ nand3x1_pcell_0/w_87_786# nand2x1_pcell
.ends

.subckt pmos2_1 a_144_n460# a_262_n399# a_88_n399# w_52_n435# a_174_n399#
X0 a_174_n399# a_144_n460# a_88_n399# w_52_n435# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.56 ps=4.56 w=2 l=0.15
X1 a_262_n399# a_144_n460# a_174_n399# w_52_n435# sky130_fd_pr__pfet_01v8 ad=0.54 pd=4.54 as=0.29 ps=2.29 w=2 l=0.15
.ends

.subckt nmos_top a_84_92# a_0_0# a_54_62# VSUBS
X0 a_84_92# a_54_62# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0597 pd=0.555 as=0.39 ps=2.96 w=3.01 l=0.15
.ends

.subckt nmos_top_trim2 a_86_92# a_56_62# a_0_0# VSUBS
X0 a_86_92# a_56_62# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.06 pd=0.56 as=0.395 ps=2.97 w=3.01 l=0.15
.ends

.subckt votern3x1_pcell a_362_381# a_1507_944# a_1366_482# a_700_482# w_750_786# m1_449_219#
+ pmos2_1_5/VSUBS a_834_375#
Xnmos_bottom_0 a_834_375# pmos2_1_5/VSUBS nmos_top_0/a_0_0# pmos2_1_5/VSUBS nmos_bottom
Xnmos_bottom_1 a_834_375# pmos2_1_5/VSUBS nmos_bottom_1/a_0_0# pmos2_1_5/VSUBS nmos_bottom
Xnmos_bottom_2 a_1507_944# pmos2_1_5/VSUBS nmos_bottom_2/a_0_0# pmos2_1_5/VSUBS nmos_bottom
Xpmos2_1_0 a_834_375# w_750_786# w_750_786# w_750_786# a_805_1331# pmos2_1
Xnmos_top_trim1_0 m1_449_219# a_1507_944# nmos_bottom_1/a_0_0# pmos2_1_5/VSUBS nmos_top_trim1
Xpmos2_1_1 a_362_381# w_750_786# w_750_786# w_750_786# a_805_1331# pmos2_1
Xpmos2_1_2 a_1507_944# a_805_1331# a_805_1331# w_750_786# a_893_1059# pmos2_1
Xpmos2_1_3 a_834_375# a_805_1331# a_805_1331# w_750_786# a_893_1059# pmos2_1
Xpmos2_1_4 a_1507_944# a_893_1059# a_893_1059# w_750_786# m1_449_219# pmos2_1
Xpmos2_1_5 a_362_381# a_893_1059# a_893_1059# w_750_786# m1_449_219# pmos2_1
Xnmos_top_0 m1_449_219# nmos_top_0/a_0_0# a_362_381# pmos2_1_5/VSUBS nmos_top
Xnmos_top_trim2_2 m1_449_219# a_362_381# nmos_bottom_2/a_0_0# pmos2_1_5/VSUBS nmos_top_trim2
.ends

.subckt TMRDFFQNX1 QN D CLK VDD GND
Xdffx1_pcell_0 m1_3593_759# D m1_3446_611# CLK VDD m1_3593_759# m1_3446_611# GND GND
+ dffx1_pcell
Xdffx1_pcell_1 m1_7839_759# D m1_7737_463# CLK VDD m1_7839_759# m1_7737_463# GND GND
+ dffx1_pcell
Xvotern3x1_pcell_0 m1_7737_463# m1_3446_611# GND GND VDD QN GND m1_12029_759# votern3x1_pcell
Xdffx1_pcell_2 m1_12177_907# D m1_12029_759# CLK VDD m1_12177_907# m1_12029_759# GND
+ GND dffx1_pcell
.ends

